US05866560
A solution of 33 g of 11β-fluoro-7α-(5-hydroxypentyl)-estr-4-ene-3,17-dione in 330 ml of dichloromethane is mixed at -5° C .with 28.9 g of triphenylphosphine and 36.7 g of carbon tetrabromide, and it is stirred for 0.5 hour. Then, dichloromethane is added and washed with water, saturated sodium bicarbonate and common salt solution. The organic phase is dried on sodium sulfate and concentrated by evaporation in a vacuum. Then, the crude product is chromatographed on silica gel with a hexane-ethyl acetate gradient. 28.5 g of 7α-(5-bromopentyl)-11β-fluoro-estr-4-ene-3,17-dione with a melting point of 75°-76° C. is obtained.

reactant | 11β-fluoro-7α-(5-hydroxypentyl)-estr-4-ene-3,17-dione | 33 g | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCO)=O | C23H33FO3
reactant | triphenylphosphine | 28.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 36.7 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 330 ml | ClCCl | CH2Cl2
product | 7α-(5-bromopentyl)-11β-fluoro-estr-4-ene-3,17-dione | 28.5 g | BrCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2[C@H]2CCC(C=C2C1)=O)F)=O | C23H32BrFO2
